US06441017B1
Step D: 3-Hydroxy-5-nitroquinoline
3-Amino-5-nitroquinoline, as described above in Step C, (4.48 g, 23.68 mmol) was dissolved in H2SO4 (6N aqueous solution, 50 mL, 300 mmol) and cooled to approximately 5° C. A 0° C. solution of NaNO2 (1.63g, 23.68 mmol) in water (5 mL) was added dropwise to the amine solution. After 45 min at 5 to 10° C., the reaction was poured into refluxing 5% aqueous H2SO4 (300 mL). The resulting mixture was heated for 5 min, then cooled and extracted once with CH2Cl2. The aqueous layer was basified with solid NaHCO3 and extracted once with CH2Cl2. The aqueous layer was then neutralized with aqueous HCl and filtered. The filtered solid was dried in vacuo to yield the above-titled compound.

reactant | 3-Amino-5-nitroquinoline | NC=1C=NC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H7N3O2
reactant | H2SO4 | 300 mmol, 6N, 50 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 23.68 mmol, 1.63g | N(=O)[O-].[Na+]
reactant | H2SO4 | 300 mL | OS(=O)(=O)O | H2O4S
solvent | water | 5 mL | O | H2O
product | 3-Hydroxy-5-nitroquinoline | OC=1C=NC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H6N2O3
